US08114873B2
3-Fluoro-N-(4-{[2-(1H-imidazol-1-yl)pyrimidin-4-yl]oxy}-1-naphthyl)-5-piperidin-1-ylbenzamide (Compound B379).
Compound is prepared from 3-fluoro-N-[4-(2-methanesulfonyl-pyrimidin-4-yloxy)-naphthalen-1-yl]-5-piperidin-1-yl-benzamide and imidazole according to conditions described in general procedure C. Mp: 175-176° C.; 1H NMR (400 MHz, DMSO-d6) δ 1.58-1.60 (m, 6 H), 3.28-3.31 (m, 4 H), 6.96 (d, J=12.4, 1 H), 7.03-7.04 (m, 1 H), 7.10-7.12 (m, 1 H), 7.17 (d, J=8.8 Hz, 1 H), 7.47 (s, 1 H), 7.55-7.67 (m, 5 H), 7.88-7.90 (m, 1 H), 8.03 (d, J=8.4 Hz, 1 H), 8.18-8.19 (m, 1 H), 8.73-8.75 (m, 1 H), 10.49 (s, 1H).

reactant | 3-fluoro-N-[4-(2-methanesulfonyl-pyrimidin-4-yloxy)-naphthalen-1-yl]-5-piperidin-1-yl-benzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)S(=O)(=O)C)C=C(C1)N1CCCCC1 | C27H25FN4O4S
reactant | imidazole | N1C=NC=C1 | C3H4N2
product | 3-Fluoro-N-(4-{[2-(1H-imidazol-1-yl)pyrimidin-4-yl]oxy}-1-naphthyl)-5-piperidin-1-ylbenzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)N2C=NC=C2)C=C(C1)N1CCCCC1 | C29H25FN6O2
